US07268135B2
2-[4′-(Isoquinolin-3-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester (480 mg, 0.88 mmol) was dissolved in 15 mL of dichloromethane. The solution was cool to 0° C. followed by the addition of 5 nL of TFA. The resulting mixture was stirred at room temperature for 4 hrs. Solvent was removed by rotavap and the residue was washed with MeOH. Solid thus obtained was dried overnight under vacuum to afford 60 mg of 2-[4′-(Isoquinolin-3-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid in 14% yield.

reactant | 2-[4′-(Isoquinolin-3-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester | 0.88 mmol, 480 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC=1N=CC2=CC=CC=C2C1)=O | C31H34N2O5S
reactant | TFA | 5 nL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[4′-(Isoquinolin-3-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid | 60 mg, 14% yield | C1=NC(=CC2=CC=CC=C12)OCC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C | C27H26N2O5S
